US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 120 mg, 0.278 mmol), ethyl 5-(aminomethyl)-1H-1,2,4-triazole-3-carboxylate, TFA (Int-XIV, 95 mg, 0.334 mmol), 4-methylmorpholine (113 mg, 1.113 mmol), and HATU (138 mg, 0.362 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 25 mL/min, 220 nM, product retention=30.1 min) to provide ethyl 5-((2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)methyl)-1H-1,2,4-triazole-3-carboxylate (40 mg, 0.058 mmol, 20.77% yield) as a single enantiomer. LCMS=584.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.08-8.22 (2 H, m), 7.50-7.78 (7 H, m), 5.22 (1 H, s), 4.48-4.72 (2 H, m), 4.42 (2 H, q, J=7.04 Hz), 1.39 (3 H, t, J=7.04 Hz); HPLC peak RT=10.0 min (Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.278 mmol, 120 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | ethyl 5-(aminomethyl)-1H-1,2,4-triazole-3-carboxylate | NCC1=NC(=NN1)C(=O)OCC | C6H10N4O2
reactant | TFA | 0.334 mmol, 95 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-methylmorpholine | 1.113 mmol, 113 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.362 mmol, 138 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | ethyl 5-((2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)methyl)-1H-1,2,4-triazole-3-carboxylate | 0.058 mmol, 40 mg, 20.77% yield | OC(C(=O)NCC1=NC(=NN1)C(=O)OCC)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C26H20F3N7O6
